US07601714B2
N4-{[trans-4-(benzylamino)cyclohexyl]methyl}-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
To a solution of N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine (100 mg, 0.23 mmol) in DMF (3 mL) were added benzyl bromide (39 mg, 0.23 mmol) followed by DIPEA (40 μL, 0.23 mmol). The reaction mixture was stirred at room temperature for 20 h. The reaction mixture was diluted with EtOAc and washed with water (×4). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel prep TLC using 10:1 CH2Cl2:MeOH as an eluent to afford 8 mg of the title compound, m/z 531.6 [M+1]+.

reactant | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine | 0.23 mmol, 100 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | benzyl bromide | 0.23 mmol, 39 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DIPEA | 0.23 mmol, 40 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N4-{[trans-4-(benzylamino)cyclohexyl]methyl}-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 8 mg | C(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C26H29F3N6O3
